US08076332B2
4-[3-(3-Benzyloxyphenyl)-1-(3-dimethylaminopropyl)ureidomethyl]-N-(2-t-butoxycarbonylaminophenyl)benzamide (Reference Compound No. 14-1)
1-Benzyloxy-3-(phenoxycarbonylamino)benzene (Reference Compound No. 5-1, 3.7 g, 12 mmol) was added to a solution of the mixture containing N-(2-t-butoxycarbonylaminophenyl)-4-(3-dimethylaminopropylaminomethyl)benzamide (Reference Compound No. 4-5, 10 g, 24 mmol) in DMSO (30 mL), and then the reaction mixture was stirred at room temperature for 15 hours. Water (300 mL) was added thereto, the whole was extracted with ethyl acetate (250 mL) twice, and then the organic layer was washed with brine (250 mL) twice. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 1.1 g of the title reference compound as a white amorphous product. (Yield 15%)

reactant | 1-Benzyloxy-3-(phenoxycarbonylamino)benzene | C(C1=CC=CC=C1)OC1=CC(=CC=C1)NC(=O)OC1=CC=CC=C1 | C20H17NO3
reactant | N-(2-t-butoxycarbonylaminophenyl)-4-(3-dimethylaminopropylaminomethyl)benzamide | 24 mmol, 10 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CNCCCN(C)C)=O | C24H34N4O3
reactant | Water | 300 mL | O | H2O
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 4-[3-(3-Benzyloxyphenyl)-1-(3-dimethylaminopropyl)ureidomethyl]-N-(2-t-butoxycarbonylaminophenyl)benzamide | Yield 15% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC(N(CCCN(C)C)CC1=CC=C(C(=O)NC2=C(C=CC=C2)NC(=O)OC(C)(C)C)C=C1)=O | C38H45N5O5
